US05409943
(b) N-(3-(Benzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride
A mixture of 2-amino-3-benzyloxypyridine (4.0 g, 20 mmol) and ethyl 4-methoxyphenylacetimidate hydrochloride (5.04 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) to give the product (1.27 g), m.p. 75°-78° C.

reactant | 2-amino-3-benzyloxypyridine | 20 mmol, 4.0 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | ethyl 4-methoxyphenylacetimidate hydrochloride | 22 mmol, 5.04 g | Cl.COC1=CC=C(C=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(Benzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride | 1.27 g | Cl.C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(CC1=CC=C(C=C1)OC)=N | InChI=1S/C21H21N3O2.ClH/c1-25-18-11-9-16(10-12-18)14-20(22)24-21-19(8-5-13-23-21)26-15-17-6-3-2-4-7-17;/h2-13H,14-15H2,1H3,(H2,22,23,24);1H
